US05972975
By analogy to Example 71, Step A, the anion of 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine was alkylated with benzylbromide to give 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(2-phenylethyl)pyridine as an amber oil.

reactant | 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | CC1=CC(=NC(=C1)C)N1C(=CC=C1C)C | C13H16N2
reactant | benzylbromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(2-phenylethyl)pyridine | CC1=CC(=NC(=C1)CCC1=CC=CC=C1)N1C(=CC=C1C)C | C20H22N2
